US08084484B2
b) 2-(2-Thioxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid ethyl ester
Solution of 2-(4-Amino-3-hydroxy-phenyl)-propionic acid ethyl ester (570 mg) in DMF (5 mL) was added phenyl chlorothionoformate (563 mg in DMF), and DBU (829 mg, in DMF) at room temperature. The reaction mixture was stirred for 14 h at room temperature and water was added to this mixture. The resulting mixture was extracted with ethyl ether. The combined organic layer was dried over magnesium sulfate, filtered and concentrated in vacuo. The resulting residue was chromatographed on silica gel (n-Hex:EtOAc=10:1 to 4:1) to afford the product as yellow oil. (90 mg, 13.2%)

reactant | 2-(4-Amino-3-hydroxy-phenyl)-propionic acid ethyl ester | 570 mg | C(C)OC(C(C)C1=CC(=C(C=C1)N)O)=O | C11H15NO3
reactant | phenyl chlorothionoformate | 563 mg | C1=CC=C(C=C1)OC(=S)Cl | C7H5ClOS
reactant | DBU | 829 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(2-Thioxo-2,3-dihydro-benzooxazol-6-yl)-propionic acid ethyl ester | C(C)OC(C(C)C1=CC2=C(NC(O2)=S)C=C1)=O | C12H13NO3S
